US04866091
A mixture of 2'-chloro-4'-cyanoacetanilide (12.5 g) and concentrated hydrochloric acid (10 ml) in ethanol (50 ml) was refluxed for 30 minutes, and concentrated under reduced pressure. The residue was dissolved in water, adjusted to pH 9 with 4N-sodium hydroxide aqueous solution, and extracted with chloroform. The extract was concentrated and the residue was subjected to column chromatography on silica gel (150 g) eluting with chloroform. The fractions containing the desired compound were combined and concentrated to give a powder of 4-amino-3-chlorobenzonitrile (5.7 g).

reactant | 2'-chloro-4'-cyanoacetanilide | 12.5 g | ClC1=C(NC(C)=O)C=CC(=C1)C#N | C9H7ClN2O
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-amino-3-chlorobenzonitrile | 5.7 g | NC1=C(C=C(C#N)C=C1)Cl | C7H5ClN2
